US06498154B1
3-(4,4-Dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)benzonitrile
Prepared by coupling 3-cyanophenylboronic acid with an equivalent amount of 6-bromo-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one using a catalytic amount of tetrakis(triphenylphosphine)palladium(0) as a catalyst with overnight refluxing in toluene containing an equivalent amount of potassium carbonate dissolved in water in the usual manner followed by recrystallization from ethanol gave a grey solid: mp. 190-192° C.; 1H-NMR (DMSO-d6) δ 10.29 (s,1H), 8.17 (s, 1H), 8.00 (d,1H, J=7.9 Hz), 7.77 (d, 1H, J=6.4 Hz), 7.65 (m, 2H), 7.55 (d, 1H, J=8.2 Hz), 6.97 (d, 1H, J=8.3 Hz), 2.40 (s, 2H), 1.30 (s, 6H); MS (APCI (−)) m/z 275 [M−-H]− Anal. Calc. For C18H16N2O 0.25H2O: C, 75.77, H, 6.01, N, 9.82. Found: C, 75.45, H, 5.65, N 9.20.

reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 6-bromo-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2C(CC(NC2=CC1)=O)(C)C | C11H12BrNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(4,4-Dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)benzonitrile | CC1(CC(NC2=CC=C(C=C12)C=1C=C(C#N)C=CC1)=O)C | C18H16N2O
